US07951834B2
Thionyl chloride (4.25 mL, 58.10 mmol, 2.4 eq) was added dropwise to a suspension of L-tryptophan (5.0 g, 24.48 mmol, 1.0 eq) in dry MeOH (50 mL) at −15° C. The cold bath was removed and the solution was stirred at room temperature for 24 h, then concentrated under vacuum at 40° C. gave a residue which was dissolved in H2O (75 mL) and then neutralized with Na2CO3 to a pH 8. Extraction with CHCl3 (3×50 mL) and dried over anhydrous MgSO4. Evaporation of the solvent gave the L-tryptophan methyl ester as a brick-red viscous oil (5.37 g, 98%); IR (liquid film) ν 1755 (CO), 3290 (NH) cm−1; 1H NMR (300 MHz, CDCl3) δH 1.78 (2H, s, —NH2), 3.10 (1H, dd, J=6.8 and 14.8 Hz, —CHαTrp), 3.32 (1H, dd, J=6.0 and 14.8 Hz, —CHβTrp), 3.80 (3H, s, OMe), 4.50 (1H, t, J=6.8 Hz, —CH—), 7.06 (1H, t, J=7.4 Hz, H-5′), 7.13 (1H, t, J=7.4 Hz, H-6′), 7.23 (1H, s, H-2′), 7.39 (1H, d, J=7.8 Hz, H-7′), 7.55 (1H, d, J=7.8 Hz, H-4′) and 8.47 (1H, s, pyrrol NH), which was sufficiently pure and used directly in the next step.

reactant | Thionyl chloride | 58.10 mmol, 4.25 mL, 2.4 eq | S(=O)(Cl)Cl | Cl2OS
reactant | L-tryptophan | 24.48 mmol, 5.0 g, 1.0 eq | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
solvent | H2O | 75 mL | O | H2O
product | L-tryptophan methyl ester | 5.37 g, 98% | COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O | C12H14N2O2
